US05614533
A solution of 1-(tert-butyloxycarbonyl)-4-piperidinol (5.2 g, 25.9 mmol), tert-butyldimethylsilyl chloride (4.07 g, 1.05 equiv.) and imidazole (2.7 g, 1.5 equiv.) in DMF (20 mL) was stirred for 16 h. After dilution with Et2O, the solution was washed successively with H2O (2×), 10% aqueous citric acid, a saturated aqueous solution of NaHCO3 and brine. The organic layer was dried (MgSO4) and concentrated to dryness. The residue was purified by HPLC using a WATERS® LC-500 preparative chromatography apparatus [2 SiO2 columns: hexane-EtOAc (19:1), Millipore Corporation, Milford, Mass., USA] to give 1-(tert-butyloxycarbonyl)-4-(tert-butyldimethylsiloxy)piperidine (7.54 g, 92%). 1H NMR (CDCl3) δ3.87 (m, 1H), 3.61 (ddd, J=3.5, 7.5, 13.0 Hz, 2H), 3.24 (ddd, J=3.7, 8.0, 13.0 Hz, 2H), 1.48 (s, 9H), 0.88 (s, 9H), 0.07 (s, 6H).

reactant | 1-(tert-butyloxycarbonyl)-4-piperidinol | 25.9 mmol, 5.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | tert-butyldimethylsilyl chloride | 4.07 g, 1.05 equiv. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.7 g, 1.5 equiv. | N1C=NC=C1 | C3H4N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(tert-butyloxycarbonyl)-4-(tert-butyldimethylsiloxy)piperidine | 7.54 g, 92% | C(C)(C)(C)OC(=O)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C16H33NO3Si
